2165-03-21 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Tachy to 130s after receiving first dose of PO dilt, appeared dry, got
   500cc NS bolus
   Allergies:
   Albuterol
   developed a fib
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-3-20**] 09:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-21**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 93 (77 - 97) bpm
   BP: 106/76(82) {104/69(77) - 146/85(99)} mmHg
   RR: 27 (19 - 33) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,587 mL
                                                                    622 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                     47 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    550 mL
   Urine:
                                                                    410 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   GEN: Elderly gentleman, alert, pleasant, looks to be in mild
   respiratory distress breathing in 30s
   CV: Irregularly irregular, tachy, no murmurs, + heave, no JVP
   Pulm: Reduced BS at Right base, Left sided crackles, no wheeze, no
   egophony
   Abdm: Soft, NT, ND, BS present
   Ext: No edema
   Labs / Radiology
   177 K/uL
   9.6 g/dL
   29.3 %
   4.2 K/uL
        [image002.jpg]
   PT: 16.6
   PTT: 33.5
   INR: 1.5
   [1][**2165-3-21**] 04:39AM
                                     41*
                                     32
   69
   0.4
   [2][**2165-3-20**] 11:22AM
                                     46*
                                     33
                                     222
   73
   0.4
   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [3][**2165-3-21**] 04:39AM
                                   108*[1]
                                     12
                                     0.7
                                     138
                                     4.1
                                     105
                                     22
                                     15
   [4][**2165-3-20**] 11:22AM
                                   126*[1]
                                     15
                                     0.7
                                     135
                                     4.3
                                     100
                                     25
                                     14
   CTA
   No PE identified. Multiple pulmonary nodules are slightly larger in
   size.
   New moderate right pleural effusion with atelectasis and consolidation
   of the
   right lower lobe. Mediastinal and hilar adenopathy increased.
                             [**2165-3-21**]  04:39 AM
   WBC
   4.2
   Hct
   29.3
   Plt
   177
   Assessment and Plan
 PNEUMONIA, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   72 year old male with SCC metastatic to left axilla and lung, a fib,
   HTN, HLD, who presents with shortness of breath and weakness.
   .
   # Hypoxia, shortness of breath: Possibly related to acute on chronic
   diastolic CHF. Question of novel chemo causing cardiomyopathy. Patient
   has been sating well in low 90s on 4L nc throughout the night.  Hypoxia
   may also be related to consolidation and effusion seen at R base on CT
   scan, that is worrisome for pneumonia (with fever) vs progression of
   malignant disease (although too quickly for this most likely).
   Currently, we are covering him for HCAP as he is receiving chemo and
   in/out of onc clinic as well as atypical coverage.  Urine legionella
   negative.  CTA negative for PE.
   - Lasix 20mg IV ONCE with goal 1L negative
   - Cont vanc, zosyn, levo (for atypical coverage) can narrow
   - Will obtain Zosyn approval
   - Collect sputum for cx if possible
   - F/u respiratory viral panel
   - F/u blood cx
   - Wean oxygen as tolerated
   - Consider thoracentesis if no improvement with diuresis
   - Obtain echo
   - Add on BNP and cardiac enzymes
   .
   # Fever: Febrile in the ED, but has been afebrile in the ICU.  Has been
   afebrile overnight.  Imaging and exam concerning for pneumonia.  Urine
   w/ few bacteria, large amounts of pyuria and leuks.
   - F/u urine cx
   - F/u blood cx
   - Cont vanc, zosyn, levo for now
   - F/u resp viral panel
   - Trend fever curve
   .
   # Weakness: Related to his difficulty breathing and likely infectious
   process superimposed on active malignancy.  CT head negative for acute
   bleed and patient without focal neurologic defecits.
   - F/u culture data
   - Cont abx
   .
   # Mucositis: Secondary to chemotherapy. Now with superimposed thrush
   that is improving.
   - Treat w/ Maalox/Diphenhydramine/Lidocaine
   - Start fluconazole oral rinse for thrush
   - Start caphasol
   - DC dexamethasone elixir
   - Continue chlorhexidine
   .
   # Atrial Fibrillation: Currently subtherapeutic. Patient states dose
   made every other day given recent episodes of epistaxis.
   - Change coumadin to 7.5mg PO every other day
   - Increase diltiazem from 60mg PO TID to 60mg PO QID
   - Monitor INR, may easily become supratherapeutic given he is now
   started on antibiotics
   - [**Month (only) 11**] need to hold if planning [**Female First Name (un) 231**]
   .
   # Anemia: Stable
   - Monitor
   .
   # HTN: BP currently stable.
   - Cont bb
   .
   # Metastatic SCC: Cutaneous squamous cell carcinoma, with metastasis to
   left axilla (s/p left axillary dissection) and pulmonary nodules.
   Patient is s/p resection, XRT, and currently undergoing phase I
   clinical trial treatment with Torisel and Neratinib (though this has
   been held since [**3-9**] given mucositis).
   - Follow up with oncology regarding further management
   - Oxycodone prn pain, with bowel regimen
   - Continue home ativan prn anxiety
   .
   # Hyperlipidemia:
   - Continue home statin
   .
   # Gout:
   - Continue allopurinol
   ICU Care
   Nutrition: Sips for now, can advance to soft diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-3-20**] 07:26 PM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: home h2blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);

2165-03-21 10:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 y.o. man with SCCa skin with metastases to lung, afib on coumadin,
   presenting with respiraorty distress and hypoxemia.  Patient seen in
   oncology clinic today and had significant complaints of dyspnea and had
   hypoxemia at 79%-->89% in clinic on day of admission requiring 4 lpm
   supplemental oxygen.  Notably has had orthopnea for the two nights
   prior to admission.
   Upon arrival in ICU patient with subjective improvement in dyspnea.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2165-3-20**] 02:50 PM
   Head CT: negative
   Tachycardia overnight, received 500 cc IVF bolus NS, hadn't received pm
   dose of diltiazem
   SaO2 89-90% on 3 L NC, increased to 4 L
   Desaturates with minimal exertion
   Cough, dry per nursing
   History obtained from Patient
   Allergies:
   Albuterol
   developed a fib
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-3-20**] 09:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-3-21**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 100 (73 - 118) bpm
   BP: 114/74(82) {104/61(77) - 146/85(99)} mmHg
   RR: 34 (19 - 34) insp/min
   SpO2: 90%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,587 mL
                                                                  1,100 mL
   PO:
                                                                    240 mL
                                                                    300 mL
   TF:
   IVF:
                                                                     47 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    650 mL
   Urine:
                                                                    410 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Thrush, mucocytis; JVP 7 cm at 45 degrees
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right base), no
   egophony, BBS
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): A & O x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.6 g/dL
   177 K/uL
   108 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   12 mg/dL
   105 mEq/L
   138 mEq/L
   29.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2165-3-21**]  04:39 AM
   WBC
   4.2
   Hct
   29.3
   Plt
   177
   Cr
   0.7
   Glucose
   108
   Other labs: PT / PTT / INR:16.6/33.5/1.5, ALT / AST:41/32, Alk Phos / T
   Bili:69/0.4, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS:  Patient without productive cough (albeit
   has had upper airway secretions related to thrush/mucocytis), may be at
   risk for aspiration.  Distribution on CT scan not totally consistent
   with this.  WBC normal.  Continue empiric antibiotics, sputum for CT
   scan shows more dependent changes, fluid in fissures, right effusion
   increased suggestive of fluid in lungs.  No edema but does not
   orthopnea for the two nights prior to admission.  [**Month (only) 11**] be related to
   Afib and poor rate control.  Will try to diurese and maintain adequate
   rate control.  Cycle cardiac enzymes albeit no concerning ECG changes
   suggestive of ischemia.  Will repeat echo.  Also receiving chemoRx that
   may be related to pulmonary inflammatory process, concern for drug
   induced pulmonary process.  Seems too fast for progression of mets.
 ATRIAL FIBRILATION/FLUTTER (AFLUTTER):  Poor rate control which may
   be secondary to not getting his meds and volume status.  Subtherapeutic
   on coumadin. Clarified dose with wife and will continue outpatient
   regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2165-3-20**] 02:50 PM
   20 Gauge - [**2165-3-20**] 07:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin, subtherapeutic)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-03-22 07:50:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Shortness of breath
   24 Hour Events:
 URINE CULTURE - At [**2165-3-21**] 02:30 PM
 BLOOD CULTURED - At [**2165-3-21**] 02:30 PM
 BLOOD CULTURED - At [**2165-3-21**] 03:24 PM
 TRANSTHORACIC ECHO - At [**2165-3-21**] 03:47 PM
 FEVER - 102.6
F - [**2165-3-21**] 02:00 PM
   [**3-21**]
   - Diltiazem increased from 60 TID to 60 QID in AM
   - Had more flutter/fibrillation in PM.  Got 5mg lopressor IV once.  -
   Metoprolol increased from 37.5 PO BID to TID
   - Still positive in/out at 18:18 but 900ml [**Last Name (LF) 1349**], [**First Name3 (LF) **] gave another Lasix
   20mg IV ONCE
   - BNP was 426
   - Coumadin restarted at 5mg PO Daily
   - Started fluconazole and improving mouth care.
   - Viral panel insufficient cells x 2 so we must wait for culture.  Keep
   on precautions for now.
   - Echo - prelim good systolic function. EF 60%.
   - Spiked fever to 102.6 and was recultured.
   - Wanted to see a doctor at 11pm, was very anxious about seeing his
   oncologist Dr. [**Last Name (STitle) 11225**], seems to have forgotten she even came by earlier
   today, may have been confused.
   History obtained from Patient
   Allergies:
   History obtained from PatientAlbuterol
   developed a fib
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-21**] 08:00 PM
   Levofloxacin - [**2165-3-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-22**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-3-21**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2165-3-22**] 07:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Feels well, denies CP or SOB. Has a good appetite.
   Flowsheet Data as of  [**2165-3-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.8
C (98.2
   HR: 91 (73 - 149) bpm
   BP: 115/85(91) {101/61(77) - 156/97(101)} mmHg
   RR: 28 (16 - 34) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 82.1 kg (admission): 82.3 kg
             Total In:
                                                                  2,460 mL
                                                                    438 mL
   PO:
                                                                  1,020 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  1,440 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    500 mL
   Urine:
                                                                  3,500 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   GEN: Anxious, elderly gentleman in mild respiratory distress (later
   after ativan looked much better on rounds)
   CV: RRR, no RMG
   PULM: Bronchial breathsounds at bases
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   237 K/uL
   10.0 g/dL
   119 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.4 mEq/L
   13 mg/dL
   98 mEq/L
   138 mEq/L
   29.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2165-3-21**]  04:39 AM
                             [**2165-3-21**]  02:28 PM
                             [**2165-3-22**]  04:44 AM
   WBC
   4.2
   5.3
   Hct
   29.3
   29.5
   Plt
   177
   237
   Cr
   0.7
   0.8
   0.7
   TropT
   <0.01
   Glucose
   108
   118
   119
   Other labs: PT / PTT / INR:21.5/43.7/2.0, CK / CKMB /
   Troponin-T:63//<0.01, ALT / AST:47/43, Alk Phos / T Bili:80/0.7,
   Differential-Neuts:90.2 %, Lymph:6.1 %, Mono:2.3 %, Eos:1.4 %, Ca++:8.4
   mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR AP [**2165-3-21**]:
   There is no change in the cardiomediastinal contour, right moderate
   pleural effusion, right basal consolidation and multiple pulmonary
   metastases. The
   patient does not experience evidence of pulmonary edema. There is no
   pneumothorax.
   Microbiology: [**2165-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-21**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2165-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-21**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Antigen Screen-FINAL; Respiratory Viral Culture-PRELIMINARY INPATIENT
   [**2165-3-21**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2165-3-20**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2165-3-20**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2165-3-20**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2165-3-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2165-3-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 ACTIVITY INTOLERANCE
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   72 year old male with SCC metastatic to left axilla and lung, a fib,
   HTN, HLD, who presents with shortness of breath and weakness.
   .
   # Hypoxia, shortness of breath:  Somewhat increasing hypoxia w/
   worsening pleural effusions, consolidation on CT.  Etiology remains
   unclear, can be cardiogenic in the setting of afib, infectious w/
   fevers (though no leuks and cough is non-productive) in the ED, drug
   related pneumonitis in the setting of experimental drugs, progression
   of malignancy w/ malignant effusions (though time period is too acute
   for this). ECG w/o evidence of ischemia, but will r/o ischemic event.
   Old echo w/o evidence of diastolic or systolic dysfunction. Pt
   inadequately diuresed overnight and worsening pleural effusion may be
   cardiogenic.
   - Intensify diuresis to 40mg iv once and reassess w/ goal of net out 1L
   - Add on CEs to this AM
s labs for full rule out
   - Improve rate control for his afib by increasing metoprolol from
   37.5mg PO TID to 50mg PO TID
   - Continue dilt 60mg PO QID
   - Cont vanc, zosyn, levo can likely narrow within 48hrs pending fever
   curve and culture data
   - Collect sputum for cx if possible
   - F/u respiratory viral culture
   - F/u blood cx
   - F/u with oncology recs
   - Wean oxygen as tolerated
   - If no improvement after diuresis, consider diagnostic and therapeutic
   thoracentesis
   - Ultimately, may need elective intubation for diagnostic bronch as
   this would significantly affect management
   - Family meeting with oncology this PM
   .
   # Fever: Febrile yesterday to 102 and was recultured. Imaging and exam
   concerning for pneumonia.  Urine w/ few bacteria, large amounts of
   pyuria and leuks. Also with active malignancy. No evidence of PE.
   - F/u urine cx
   - F/u blood cx
   - Cont vanc, zosyn, levo for now
   - F/u resp viral panel
   - Trend fever curve
   .
   # Atrial Fibrillation: Currently therapeutic.  Clarified home dose
   coumadin is 7.5mg every other day.
   - Continue coumadin to 5mg daily,
   - Monitor INRs while on abx and adjust appropriately
   - Continue dilt and metoprolol per above
   .
   # Mucositis: Improving significantly. Secondary to chemotherapy.
   - Treat w/ Maalox/Diphenhydramine/Lidocaine
   - Continue Caphosol
   - Continue to hold Dexamethasone elixir, as likely exacerbate his
   thrush
   .
   # Thrush: Small improvement with nystatin. Likely worsened w/ home
   dexamethasone.
   - Continue fluconazole
   .
   # Metastatic SCC: Cutaneous squamous cell carcinoma, with metastasis to
   left axilla (s/p left axillary dissection) and pulmonary nodules.
   Patient is s/p resection, XRT, and currently undergoing phase I
   clinical trial treatment with Torisel and Neratinib (though this has
   been held since [**3-9**] given mucositis).
   - F/u on onc recs regarding further treatment
   - Oxycodone prn pain, with bowel regimen
   - Ativan prn anxiety
   - Treat mucositis and thrush as above
   .
   # Anemia: Stable but slowly trending down.
   - Monitor
   - Low threshold to transfuse as would likely help his dyspnea
   .
   # HTN: BP currently stable.
   - Cont bb
   # Hyperlipidemia:
   - Continue home statin
   .
   # Gout:
   - Continue allopurinol
   ICU Care
   Nutrition: Continue soft diet, clarify with onc if he
s ready to take
   all PO medicines
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-3-20**] 07:26 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: home h2blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2165-03-22 09:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2165-3-21**] 02:30 PM
 BLOOD CULTURED - At [**2165-3-21**] 02:30 PM
 BLOOD CULTURED - At [**2165-3-21**] 03:24 PM
 TRANSTHORACIC [**Year (4 digits) **] - At [**2165-3-21**] 03:47 PM: LVEF 55%, mild LVH, mild
   to moderate MR, mild biatrial dilatation
 FEVER - 102.6
F - [**2165-3-21**] 02:00 PM, pancultured
   Diltiazem increased to 60 qid
   Episode of aflutter with RVR requiring one dose of IV lopressor
   Given lasix last pm, negative 1 L at midnight
   Increasing FiO2 requirements overnight - on 50% FM overnight
   Able to eat
   History obtained from Patient
   Allergies:
   Albuterol
   developed a fib
   Last dose of Antibiotics:
   Levofloxacin - [**2165-3-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-22**] 02:00 AM
   Vancomycin - [**2165-3-22**] 08:36 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-3-21**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2165-3-22**] 07:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-3-22**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.4
C (97.5
   HR: 94 (73 - 149) bpm
   BP: 109/72(81) {101/63(78) - 156/97(101)} mmHg
   RR: 30 (16 - 34) insp/min
   SpO2: 91%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 82.1 kg (admission): 82.3 kg
             Total In:
                                                                  2,460 mL
                                                                    952 mL
   PO:
                                                                  1,020 mL
                                                                    450 mL
   TF:
   IVF:
                                                                  1,440 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                    500 mL
   Urine:
                                                                  3,500 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,040 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, decrased thursh; improvement
   of exoriations on lips
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right [**1-28**] way up; some
   egophony on exam in this area)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   237 K/uL
   119 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.4 mEq/L
   13 mg/dL
   98 mEq/L
   138 mEq/L
   29.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2165-3-21**]  04:39 AM
                             [**2165-3-21**]  02:28 PM
                             [**2165-3-22**]  04:44 AM
   WBC
   4.2
   5.3
   Hct
   29.3
   29.5
   Plt
   177
   237
   Cr
   0.7
   0.8
   0.7
   TropT
   <0.01
   Glucose
   108
   118
   119
   Other labs: PT / PTT / INR:21.5/43.7/2.0, CK / CKMB /
   Troponin-T:63//<0.01, ALT / AST:47/43, Alk Phos / T Bili:80/0.7,
   Differential-Neuts:90.2 %, Lymph:6.1 %, Mono:2.3 %, Eos:1.4 %, Ca++:8.4
   mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: increased right pleural effusion
   Microbiology: Blood cx: NGTD
   UCx:  NGTD
   Urinary legionella antigen negative
   Assessment and Plan
 ANXIETY:  Ativan.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Treating empirically for
   PNA.  Also component of CHF which may be exacerbated, still not
   adequately rate controlled and has moderate MR [**First Name (Titles) **] [**Last Name (Titles) 1188**].  Will increase
   meds to get adequate rate control as below and then consider afterload
   reduction.  Also further diuresis, goal to have 1.5 L negative.  High
   FiO2 requirements persist, needs to remain in the ICU.
 PNEUMONIA, OTHER:  Nonproductive cough.
 ATRIAL FLUTTER (AFLUTTER):  Increased diltiazem yesterday.  Increase
   beta blocker dose.  Therapeutic on coumadin.  Will need to monitor INR
   in setting of broad spectrum abx and poor po intake.  Stop SQ heparin.
 ORAL THRUSH/MUCOCYTIS:  Fluconazole.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2165-3-20**] 02:50 PM
   20 Gauge - [**2165-3-20**] 07:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-03-23 08:03:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 BLOOD CULTURED - At [**2165-3-22**] 08:00 PM
 URINE CULTURE - At [**2165-3-22**] 08:00 PM
 FEVER - 101.8
F - [**2165-3-22**] 06:39 PM
   - IP: loculated but fluid looks simple. tapable. anticoagulation should
   be held
   - coumadin: should continue (currently holding for possible [**Female First Name (un) 231**])
   - diuresed with IV lasix x1, ordered for second dose but was febrile
   and urine looked concentrated
   - febrile overnight. cultured
   - seen by dr [**Last Name (STitle) **] who left note in OMR
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsAlbuterol
   developed a fib
   Last dose of Antibiotics:
   Levofloxacin - [**2165-3-21**] 10:00 PM
   Vancomycin - [**2165-3-22**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-3-22**] 10:00 AM
   Ranitidine (Prophylaxis) - [**2165-3-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2165-3-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: mucositis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-3-23**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 35.4
C (95.8
   HR: 102 (75 - 143) bpm
   BP: 126/14(45) {88/14(45) - 126/92(95)} mmHg
   RR: 29 (18 - 34) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 82.8 kg (admission): 82.3 kg
             Total In:
                                                                  2,100 mL
                                                                    480 mL
   PO:
                                                                  1,110 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    990 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    450 mL
   Urine:
                                                                  3,125 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,025 mL
                                                                     30 mL
   [image002.gif]
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, mucositis improving
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : ,
   Bronchial: right lower lobe)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   247 K/uL
   10.0 g/dL
   110 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   17 mg/dL
   98 mEq/L
   134 mEq/L
   29.4 %
   5.8 K/uL
        [image004.jpg]
                             [**2165-3-21**]  04:39 AM
                             [**2165-3-21**]  02:28 PM
                             [**2165-3-22**]  04:44 AM
                             [**2165-3-22**]  04:02 PM
                             [**2165-3-22**]  09:33 PM
                             [**2165-3-23**]  04:46 AM
   WBC
   4.2
   5.3
   5.8
   Hct
   29.3
   29.5
   29.4
   Plt
   177
   237
   247
   Cr
   0.7
   0.8
   0.7
   1.0
   1.0
   0.9
   TropT
   <0.01
   0.01
   Glucose
   108
   118
   119
   163
   113
   110
   Other labs: PT / PTT / INR:22.6/58.5/2.1, CK / CKMB /
   Troponin-T:34/2/0.01, Differential-Neuts:89.2 %, Lymph:7.3 %, Mono:2.0
   %, Eos:1.3 %, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: .
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [1][**2165-3-22**] 08:16PM
   Yellow
                                    Hazy
                                    1.022
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [2][**2165-3-22**] 08:16PM
                                     TR
                                     NEG
                                     30
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     5.0
                                     LG
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [3][**2165-3-22**] 08:16PM
                                     6*
                                    215*
                                     FEW
                                    NONE
                                      0
   Imaging:
   Effusion stable
   Microbiology:
   Viral culture negative
   Assessment and Plan
   72 year old male with SCC metastatic to left axilla and lung, a fib,
   HTN, HLD, who presents with shortness of breath and weakness.
   # Hypoxia
   [**2-26**] pleural effusion, volume overload vs PNA. Therapeutic on coumadin
   and CTA negative for PE.
   - continue diuresis with IV lasix for goal net negative 1L
   - Improve rate control
   - Cont vanc, zosyn, levo for treatment of HCAP. Day 1 of all three
   antibiotics is [**2165-3-23**]
   - flu negative
   - F/u blood cx
   - F/u with oncology recs
   - Wean oxygen as tolerated
   # Atrial flutter
   Rates up to 145 if meds held. Asymptomatic.
   - liberalize holding parameters for dilt and lopressor
   - if difficult to control, may change meds to long acting vs stagger
   doses of dilt and lopressor
   - holding coumadin for potential [**Female First Name (un) 231**], bridge for INR < 2
   # Fever:
   Febrile yesterday to 101.8 and was recultured. UA appears infected.
   - F/u urine cx
   - Cont vanc, zosyn, levo to treat HCAP
   - has h/o recurrent UTI, so may consider broadening if worsens
   # Left pleural effusion
   Concern is for malignant effusion. Oncologist would like it tapped.
   - Holding coumadin
   - contue diuresis
   # Mucositis: Improving significantly. Secondary to chemotherapy.
   - Treat w/ Maalox/Diphenhydramine/Lidocaine
   - Continue Caphosol
   # Thrush:
   - Continue fluconazole
   # Metastatic SCC: Cutaneous squamous cell carcinoma, with metastasis to
   left axilla (s/p left axillary dissection) and pulmonary nodules.
   Patient is s/p resection, XRT, and currently undergoing phase I
   clinical trial treatment with Torisel and Neratinib (though this has
   been held since [**3-9**] given mucositis).
   - F/u on onc recs
   - Oxycodone prn pain, with bowel regimen
   - Ativan prn anxiety
   - Treat mucositis and thrush as above
   # Anemia: Stable but slowly trending down.
   - Monitor
   - Low threshold to transfuse as would likely help his dyspnea
   # HTN: BP currently stable.
   - Cont bb, dilt
   # Hyperlipidemia:
   - Continue home statin
   # Gout:
   - Continue allopurinol
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACTIVITY INTOLERANCE
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   ICU Care
   Nutrition:
   2g sodium
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2165-3-20**] 02:50 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: callout to OMED
   ------ Protected Section ------
   MICU WEEKEND COVERAGE ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 11108**]
s  note above, including the assessment and plan. I would
   emphasize and add the following points:
   Febrile again 101.8.  Recultured, blood and urine.  Coumadin being
   held.  Brief bursts of Aflutter with RVR to 140s.
   BP126/14, P70-140. RR29 Sat 93%
   I/O net neg 1L.
   Awake, alert, NAD.
   Exam notable with diminished breath sounds R > L, with bronchial breath
   sounds over L base. RR tachy s1 S2.  Abd soft.  Tr edema.
   Labs: WBC 5.8, Hct 29, Plt 247.  Chem-7 134, 4.2, 98, 27, 17, 0.9.  INR
   2.1.
   CXR stable, L effusion, pulm masses.
   Meds include SQ heparin, zosyn, levaquin, vanc, dilt 60 QID,
   fluconazole, lopressor TID.
   72 y/o with metastatic SCC here with hypoxemia and L pleural effusion,
   HAP, rapid Afib.
   Will continue to diurese, antibiotics.  Holding coumadin with plan to
   cover with heparin if INR drifts down, follow effusion with CXR with
   plan to tap by IP if does not resolve.
   On home beta blocker and dilt, liberalize hold parameters to keep Afib
   in control.
   While he still requires monitoring of O2 sats and HR, sats improved and
   has been tolerating nasal cannula without difficulty, bursts of
   tachycardia well tolerated by symptoms and blood pressure.  Stable for
   transfer to OMed.
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2165-3-23**] 11:49 AM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);

2165-03-24 07:34:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Shortness of breath
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2165-3-23**] 08:58 AM
 TUNNELED (HICKMAN) LINE - STOP [**2165-3-23**] 09:00 AM
 CALLED OUT
   [**2165-3-23**]
   -metoprolol continued (lowered BP parameters)
   -Is and Os in evening were: -690
   -called out (effusion to be tapped on floor)
   History obtained from Patient
   Allergies:
   History obtained from PatientAlbuterol
   developed a fib
   Last dose of Antibiotics:
   Levofloxacin - [**2165-3-21**] 10:00 PM
   Fluconazole - [**2165-3-23**] 12:00 PM
   Vancomycin - [**2165-3-23**] 07:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2165-3-24**] 01:52 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2165-3-23**] 07:29 PM
   Furosemide (Lasix) - [**2165-3-23**] 08:23 PM
   Heparin Sodium (Prophylaxis) - [**2165-3-23**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies CP, SOB. Feels well.
   Flowsheet Data as of  [**2165-3-24**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**67**] AM
   Tmax: 38
C (100.4
   Tcurrent: 35.6
C (96
   HR: 83 (73 - 151) bpm
   BP: 94/62(69) {94/57(69) - 119/84(89)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 82.8 kg (admission): 82.3 kg
             Total In:
                                                                  2,260 mL
                                                                    225 mL
   PO:
                                                                  1,320 mL
             TF:
   IVF:
                                                                    940 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    550 mL
   Urine:
                                                                  2,950 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   GEN: Anxious, elderly gentleman in NAD
   CV: RRR, no RMG
   PULM: Reduced breath sounds at R base, rhales bibasilarly
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   262 K/uL
   10.0 g/dL
   111 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.4 mEq/L
   19 mg/dL
   96 mEq/L
   135 mEq/L
   29.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2165-3-21**]  04:39 AM
                             [**2165-3-21**]  02:28 PM
                             [**2165-3-22**]  04:44 AM
                             [**2165-3-22**]  04:02 PM
                             [**2165-3-22**]  09:33 PM
                             [**2165-3-23**]  04:46 AM
                             [**2165-3-24**]  04:12 AM
   WBC
   4.2
   5.3
   5.8
   6.2
   Hct
   29.3
   29.5
   29.4
   29.0
   Plt
   177
   237
   247
   262
   Cr
   0.7
   0.8
   0.7
   1.0
   1.0
   0.9
   0.9
   TropT
   <0.01
   0.01
   Glucose
   108
   118
   119
   163
   113
   110
   111
   Other labs: PT / PTT / INR:22.5/52.8/2.1, CK / CKMB /
   Troponin-T:34/2/0.01, ALT / AST:47/43, Alk Phos / T Bili:80/0.7,
   Differential-Neuts:89.2 %, Lymph:7.3 %, Mono:2.0 %, Eos:1.3 %, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR AP [**2165-3-23**]:
   Moderate right pleural effusion is smaller, bibasilar atelectasis is
   unchanged. Heart size is normal. Large pulmonary metastases noted.
   Microbiology: [**2165-3-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2165-3-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2165-3-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2165-3-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 HYPOXEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ACTIVITY INTOLERANCE
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
 ATRIAL FLUTTER (AFLUTTER)
   72 year old male with SCC metastatic to left axilla and lung, a fib,
   HTN, HLD, who presents with shortness of breath and weakness.
   # Hypoxia
   [**2-26**] pleural effusion with concominant acute dCHF vs PNA. Therapeutic on
   coumadin and CTA negative for PE.
   - continue diuresis with IV lasix for goal net negative 1L
   - Continue rate control
   - Cont vanc, zosyn, levo for treatment of HCAP. Day 1 of all three
   antibiotics is [**2165-3-23**], last dose: [**2165-3-30**]
   - flu negative
   - F/u blood cx
   - F/u with oncology recs
   - Wean oxygen as tolerated
   # Atrial flutter
   Rates up to 145 if meds held. Asymptomatic.
   - liberalized holding parameters for dilt and lopressor
   - if difficult to control, may change meds to long acting vs stagger
   doses of dilt and lopressor
   - holding coumadin for potential [**Female First Name (un) 231**],
   - Vitamin K 3mg PO ONCE for [**Female First Name (un) 231**], bridge for INR < 2
   # Fever:
   Support the diagnosis of PNA as UTI is new. Fever curve trending down.
   Febrile yesterday to 100.4 and was recultured. Urine cx, all negative
   thus far.
   - Cont vanc, zosyn, levo to treat HCAP and UTI
   - has h/o recurrent UTI, so may consider broadening if worsens
   # Left pleural effusion
   Concern is for malignant effusion. Ddx includes transudative effusion
   given possible CHF, vs parapnuemonic effusion. Empyema unlikely given
   downtrending fever curve and pt feeling well (would expect much more
   sick).
   - Holding coumadin
   - continue diuresis
   - Likely [**Female First Name (un) 231**] on the floor
   # Mucositis: Improving significantly. Secondary to chemotherapy.
   - Treat w/ Maalox/Diphenhydramine/Lidocaine
   - Continue Caphosol
   # Thrush:
   - Continue fluconazole
   # Metastatic SCC: Cutaneous squamous cell carcinoma, with metastasis to
   left axilla (s/p left axillary dissection) and pulmonary nodules.
   Patient is s/p resection, XRT, and currently undergoing phase I
   clinical trial treatment with Torisel and Neratinib (though this has
   been held since [**3-9**] given mucositis).
   - F/u on onc recs
   - Oxycodone prn pain, with bowel regimen
   - Ativan prn anxiety
   - Treat mucositis and thrush as above
   # Anemia: Stable but slowly trending down.
   - Monitor
   - Low threshold to transfuse as would likely help his dyspnea
   # HTN: BP currently stable.
   - Cont bb, dilt
   # Hyperlipidemia:
   - Continue home statin
   # Gout:
   - Continue allopurinol
   ICU Care
   Nutrition: Regular; Low sodium / Heart healthy Consistency: Soft
   (dysphagia); Thin liquids Supplement: As recommended by Nutrition
   breakfast, lunch, dinner. No caffeine
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2165-3-23**] 08:58 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: called out to OMED, awaiting bed